US08022062B2
7-Chloro-6-(4-chloro-3-pyrrolidin-1-yl-benzylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine hydrochloride
Use a method similar to the Example 419, using 6-(3-bromo-4-chloro-benzylthio)-3-tert-butoxycarbonyl-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine and pyrrolidine to give, after deprotection using a method similar to the General Procedure 1-4, the title compound as a white solid. MS (ES+) m/z: 407 (M+H)+.

reactant | 6-(3-bromo-4-chloro-benzylthio)-3-tert-butoxycarbonyl-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine | BrC=1C=C(CSC2=C(C=CC=3CCN(CCC32)C(=O)OC(C)(C)C)Cl)C=CC1Cl | C22H24BrCl2NO2S
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | 7-Chloro-6-(4-chloro-3-pyrrolidin-1-yl-benzylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine hydrochloride | Cl.ClC1=C(C2=C(CCNCC2)C=C1)SCC1=CC(=C(C=C1)Cl)N1CCCC1 | InChI=1S/C21H24Cl2N2S.ClH/c22-18-5-3-15(13-20(18)25-11-1-2-12-25)14-26-21-17-8-10-24-9-7-16(17)4-6-19(21)23;/h3-6,13,24H,1-2,7-12,14H2;1H
